US07951829B2
2-{2-[2-(2-trifluoromethyl-phenyl)-ethyl]-1H-benzimidazol-5-yl}-benzenesulfonamide (Cpd 401)
A mixture of (E)-2-{2-[2-(2-trifluoromethyl-phenyl)-vinyl]-1H-benzimidazol-5-yl}-benzenesulfonamide Cpd 364 (0.020 g, 0.045 mmol) and 10% palladium on charcoal (0.005 g, 0.0045 mmol) in 2 mL MeOH was hydrogenated under H2 gas (1 atm) for 1 hour. The catalyst was removed by filtration, the filtrate was concentrated to dryness, and the residue was purified by chromatography (silica gel, MeOH:CH2Cl2=10:1) to give the title compound as a white solid. 1H-NMR (400 MHz, CD3OD) δ (ppm): 8.14 (dd, 1H, J=1.2 and 7.6 Hz) 7.74-7.53 (m, 4H) 7.60-7.56 (m, 2H) 7.51-7.40 (m, 4H) 3.41 (m, 4H) MS (ESI, pos. ion) m/z: 446.5 (M+1).

reactant | (E)-2-{2-[2-(2-trifluoromethyl-phenyl)-vinyl]-1H-benzimidazol-5-yl}-benzenesulfonamide | FC(C1=C(C=CC=C1)/C=C/C1=NC2=C(N1)C=CC(=C2)C2=C(C=CC=C2)S(=O)(=O)N)(F)F | C22H16F3N3O2S
catalyst | palladium on charcoal | 0.0045 mmol, 0.005 g | [Pd] | Pd
solvent | MeOH | 2 mL | CO | CH4O
product | 2-{2-[2-(2-trifluoromethyl-phenyl)-ethyl]-1H-benzimidazol-5-yl}-benzenesulfonamide | FC(C1=C(C=CC=C1)CCC1=NC2=C(N1)C=CC(=C2)C2=C(C=CC=C2)S(=O)(=O)N)(F)F | C22H18F3N3O2S
